US05554607
A mixture of N-phenyl glycine ethyl ester (8.95 g), 5-chloro-2-methylphenylisothiocyanate (9.18 g), and chloroform (200 mL) was heated at reflux for 24 hours. The solvent was evaporated. The residue was crystallized from ethyl acetate/hexane mixture. The solid was collected and dried to give 17.2 g of 2-[3-(5-chloro-2-methylphenyl)-1-phenyl -thioureido]-acetic acid ethyl ester as a white solid, m.p. 148°-150° C. Anal. Calcd. for. C18H19Cl N2O S: C, 59.58; H, 5.28; N, 7.72. Found: C, 59.79; H, 5.38; N, 7.65. Mass spectrum (EI, M.+) m/z 262/264.

reactant | N-phenyl glycine ethyl ester | 8.95 g | C(C)OC(CNC1=CC=CC=C1)=O | C10H13NO2
reactant | 5-chloro-2-methylphenylisothiocyanate | 9.18 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-chloro-2-methylphenyl)-1-phenyl -thioureido]-acetic acid ethyl ester | 17.2 g | C(C)OC(CN(C(=S)NC1=C(C=CC(=C1)Cl)C)C1=CC=CC=C1)=O | C18H19ClN2O2S
